US04117238
400 g of methyl methacrylate (4 mole), 152 g of ethylene glycol monomethyl ether (2 mole), 2.75 g of KCN (0.5%) and 0.14 g of hydroquinone monomethyl ether (250 ppm) are added to a 1 liter round-bottomed flask. The batch is heated to about 75° C. and the methyl methacrylate/methanol-azeotrope is distilled-off by way of a 1 m vigreux column at 65° C. temperature at the head of the column. After 4 hours, the trans-esterification is completed. After cooling of the flask, the sump is filtered to remove the potassium cyanide, and the filter residue is washed with a little methyl methacrylate. The filtrate is concentrated at 40° C. under a water jet vacuum. A residue of ethylene glycol monomethylether methacrylate of 260 g = 90% results.

reactant | methyl methacrylate | 4 mole, 400 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | ethylene glycol monomethyl ether | 2 mole, 152 g | COCCO | C3H8O2
reactant | KCN | 2.75 g | [C-]#N.[K+]
reactant | hydroquinone monomethyl ether | 0.14 g | COC1=CC=C(O)C=C1 | C7H8O2
reactant | methyl methacrylate methanol | C(C(=C)C)(=O)OC.CO
product | ethylene glycol monomethylether methacrylate | C(C(=C)C)(=O)OCCOC | C7H12O3
